US09403845B2
To a suspension of EtONH2.HCl (171 mg, 2.06 mmol) in EtOH (5 ml) was added K2CO3 (288 mg, 2.06 mmol) and stirring was continued for 20 min at ambient temperature. A solution of 6-bromo-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one (500 mg, 1.72 mmol) in EtOH (5 ml) was added and stirring was continued for 12 h affording a milky suspension. Since the conversion was not complete, the same amount of EtONH2.HCl in EtOH and K2CO3 were separately mixed and added to the reaction mixture affording after 60 min full conversion. The mixture was concentrated under reduced pressure followed by addition of water and ethyl acetate then the phases were separated. The aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography eluting with ethyl acetate/heptane, gradient, afforded 6-bromo-N-ethoxy-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine as a yellow solid and a single isomer.

reactant | EtONH2.HCl | 2.06 mmol, 171 mg | C(C)ON.Cl
reactant | 6-bromo-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one | 1.72 mmol, 500 mg | BrC=1C=CC=2N(S(CC(C2N1)=O)(=O)=O)C | C8H7BrN2O3S
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | K2CO3 | 2.06 mmol, 288 mg | C(=O)([O-])[O-].[K+].[K+]
product | 6-bromo-N-ethoxy-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-imine | BrC=1C=CC=2N(S(CC(C2N1)=NOCC)(=O)=O)C | C10H12BrN3O3S
